* Equivalent circuit model for E:\touchstone_files\pa_match_1_test.ckt
.SUBCKT pa_match_1_test po1 po2
Vsp1 po1 p1 0
Vsr1 p1 pr1 0
Rp1 pr1 0 50
Ru1 u1 0 50
Fr1 u1 0 Vsr1 -1
Fu1 u1 0 Vsp1 -1
Ry1 y1 0 1
Gy1 p1 0 y1 0 -0.02
Vsp2 po2 p2 0
Vsr2 p2 pr2 0
Rp2 pr2 0 50
Ru2 u2 0 50
Fr2 u2 0 Vsr2 -1
Fu2 u2 0 Vsp2 -1
Ry2 y2 0 1
Gy2 p2 0 y2 0 -0.02
Rx1 x1 0 1
Fxc1_2 x1 0 Vx2 1.11876364177254
Cx1 x1 xm1 8.12282184598937e-13
Vx1 xm1 0 0
Gx1_1 x1 0 u1 0 -1.25023389319963
Rx2 x2 0 1
Fxc2_1 x2 0 Vx1 -0.824350953754196
Cx2 x2 xm2 8.12282184598937e-13
Vx2 xm2 0 0
Gx2_1 x2 0 u1 0 1.03063150227493
Rx3 x3 0 1
Fxc3_4 x3 0 Vx4 2.75164277795929
Cx3 x3 xm3 8.72622582171485e-14
Vx3 xm3 0 0
Gx3_1 x3 0 u1 0 -0.0893068964530926
Rx4 x4 0 1
Fxc4_3 x4 0 Vx3 -7.04078183791267
Cx4 x4 xm4 8.72622582171485e-14
Vx4 xm4 0 0
Gx4_1 x4 0 u1 0 0.628790374547282
Rx5 x5 0 1
Fxc5_6 x5 0 Vx6 0.691868906006809
Cx5 x5 xm5 1.77830262867704e-13
Vx5 xm5 0 0
Gx5_1 x5 0 u1 0 -0.113506953045115
Rx6 x6 0 1
Fxc6_5 x6 0 Vx5 -14.7182530637558
Cx6 x6 xm6 1.77830262867704e-13
Vx6 xm6 0 0
Gx6_1 x6 0 u1 0 1.67062405941384
Rx7 x7 0 1
Fxc7_8 x7 0 Vx8 4.02732014201053
Cx7 x7 xm7 3.29574447381612e-13
Vx7 xm7 0 0
Gx7_1 x7 0 u1 0 -0.383116374406913
Rx8 x8 0 1
Fxc8_7 x8 0 Vx7 -1.76324299669014
Cx8 x8 xm8 3.29574447381612e-13
Vx8 xm8 0 0
Gx8_1 x8 0 u1 0 0.675527264090306
Rx9 x9 0 1
Fxc9_10 x9 0 Vx10 7.0254499222271
Cx9 x9 xm9 5.8066207637696e-14
Vx9 xm9 0 0
Gx9_1 x9 0 u1 0 -0.0129382851092394
Rx10 x10 0 1
Fxc10_9 x10 0 Vx9 -17.0140364230588
Cx10 x10 xm10 5.8066207637696e-14
Vx10 xm10 0 0
Gx10_1 x10 0 u1 0 0.220132454100518
Rx11 x11 0 1
Fxc11_12 x11 0 Vx12 5.67417436336976
Cx11 x11 xm11 3.68914903376375e-14
Vx11 xm11 0 0
Gx11_1 x11 0 u1 0 -0.0020183789604759
Rx12 x12 0 1
Fxc12_11 x12 0 Vx11 -40.7089831442458
Cx12 x12 xm12 3.68914903376375e-14
Vx12 xm12 0 0
Gx12_1 x12 0 u1 0 0.0821661550807138
Rx13 x13 0 1
Cx13 x13 0 8.29375530244443e-12
Gx13_1 x13 0 u1 0 -2.32461478262869
Rx14 x14 0 1
Fxc14_15 x14 0 Vx15 1.44964566725118
Cx14 x14 xm14 8.12282184598937e-13
Vx14 xm14 0 0
Gx14_2 x14 0 u2 0 -3.28826875112332
Rx15 x15 0 1
Fxc15_14 x15 0 Vx14 -0.636192620000368
Cx15 x15 xm15 8.12282184598937e-13
Vx15 xm15 0 0
Gx15_2 x15 0 u2 0 2.09197231204248
Rx16 x16 0 1
Fxc16_17 x16 0 Vx17 4.25647367910701
Cx16 x16 xm16 8.72622582171485e-14
Vx16 xm16 0 0
Gx16_2 x16 0 u2 0 -0.0718577416227247
Rx17 x17 0 1
Fxc17_16 x17 0 Vx16 -4.55158846407899
Cx17 x17 xm17 8.72622582171485e-14
Vx17 xm17 0 0
Gx17_2 x17 0 u2 0 0.327066867824763
Rx18 x18 0 1
Fxc18_19 x18 0 Vx19 6.25953079795297
Cx18 x18 xm18 1.77830262867704e-13
Vx18 xm18 0 0
Gx18_2 x18 0 u2 0 -0.348739833701241
Rx19 x19 0 1
Fxc19_18 x19 0 Vx18 -1.62681548733368
Cx19 x19 xm19 1.77830262867704e-13
Vx19 xm19 0 0
Gx19_2 x19 0 u2 0 0.567335362515353
Rx20 x20 0 1
Fxc20_21 x20 0 Vx21 2.83200053565728
Cx20 x20 xm20 3.29574447381612e-13
Vx20 xm20 0 0
Gx20_2 x20 0 u2 0 -0.356745601232561
Rx21 x21 0 1
Fxc21_20 x21 0 Vx20 -2.50746564007309
Cx21 x21 xm21 3.29574447381612e-13
Vx21 xm21 0 0
Gx21_2 x21 0 u2 0 0.894527337337862
Rx22 x22 0 1
Fxc22_23 x22 0 Vx23 9.93320766071434
Cx22 x22 xm22 5.8066207637696e-14
Vx22 xm22 0 0
Gx22_2 x22 0 u2 0 -0.00995022630788689
Rx23 x23 0 1
Fxc23_22 x23 0 Vx22 -12.0335006523513
Cx23 x23 xm23 5.8066207637696e-14
Vx23 xm23 0 0
Gx23_2 x23 0 u2 0 0.119736054767
Rx24 x24 0 1
Fxc24_25 x24 0 Vx25 13.2130488245832
Cx24 x24 xm24 3.68914903376375e-14
Vx24 xm24 0 0
Gx24_2 x24 0 u2 0 -0.00213027803422686
Rx25 x25 0 1
Fxc25_24 x25 0 Vx24 -17.4819507278418
Cx25 x25 xm25 3.68914903376375e-14
Vx25 xm25 0 0
Gx25_2 x25 0 u2 0 0.0372414156309576
Rx26 x26 0 1
Cx26 x26 0 8.29375530244443e-12
Gx26_2 x26 0 u2 0 -0.834130386125369
Gyc1_1 y1 0 x1 0 -1
Gyc1_2 y1 0 x2 0 -0.788494145334384
Gyc1_3 y1 0 x3 0 1
Gyc1_4 y1 0 x4 0 -1
Gyc1_5 y1 0 x5 0 1
Gyc1_6 y1 0 x6 0 -1
Gyc1_7 y1 0 x7 0 -1
Gyc1_8 y1 0 x8 0 0.0445040589133695
Gyc1_9 y1 0 x9 0 -1
Gyc1_10 y1 0 x10 0 1
Gyc1_11 y1 0 x11 0 -1
Gyc1_12 y1 0 x12 0 1
Gyc1_13 y1 0 x13 0 -1
Gyc1_14 y1 0 x14 0 -0.0230765148095043
Gyc1_15 y1 0 x15 0 0.496135593620147
Gyc1_16 y1 0 x16 0 -0.646288550531259
Gyc1_17 y1 0 x17 0 0.0259529082234406
Gyc1_18 y1 0 x18 0 -0.162899481850751
Gyc1_19 y1 0 x19 0 1
Gyc1_20 y1 0 x20 0 1
Gyc1_21 y1 0 x21 0 -0.762869971101801
Gyc1_22 y1 0 x22 0 0.278093879699649
Gyc1_23 y1 0 x23 0 1
Gyc1_24 y1 0 x24 0 -0.489610828670239
Gyc1_25 y1 0 x25 0 -1
Gyc1_26 y1 0 x26 0 1
Gyc2_1 y2 0 x1 0 -0.0277418569665288
Gyc2_2 y2 0 x2 0 1
Gyc2_3 y2 0 x3 0 -0.578722053974445
Gyc2_4 y2 0 x4 0 0.0208525435267581
Gyc2_5 y2 0 x5 0 -0.461878581080226
Gyc2_6 y2 0 x6 0 0.367166622018963
Gyc2_7 y2 0 x7 0 0.942924188026827
Gyc2_8 y2 0 x8 0 -1
Gyc2_9 y2 0 x9 0 0.210146073498097
Gyc2_10 y2 0 x10 0 0.533468297298192
Gyc2_11 y2 0 x11 0 -0.604662331611677
Gyc2_12 y2 0 x12 0 -0.466668781926379
Gyc2_13 y2 0 x13 0 0.359942758192665
Gyc2_14 y2 0 x14 0 1
Gyc2_15 y2 0 x15 0 1
Gyc2_16 y2 0 x16 0 -1
Gyc2_17 y2 0 x17 0 1
Gyc2_18 y2 0 x18 0 -1
Gyc2_19 y2 0 x19 0 -0.0624790743287158
Gyc2_20 y2 0 x20 0 -0.804574388802016
Gyc2_21 y2 0 x21 0 1
Gyc2_22 y2 0 x22 0 1
Gyc2_23 y2 0 x23 0 0.230399435694214
Gyc2_24 y2 0 x24 0 1
Gyc2_25 y2 0 x25 0 -0.268383105435592
Gyc2_26 y2 0 x26 0 -0.357072348215329
.ENDS
